US09278960B2
To a stirred solution of 4,7-dichloroquinoline-2-carbonitrile (6 g, 26.9 mmol), (2-fluoro-4-methoxyphenyl)boronic acid (5.03 g, 29.6 mmol), 2M sodium carbonate (29.6 ml, 59.2 mmol) in 10:1 toluene (48.9 ml) ethanol (4.89 ml) was added tetrakis(triphenylphosphine)palladium(0) (0.777 g, 0.672 mmol). The mixture was stirred at 75° C. under N2 for 18 hours. The reaction was allowed to cool to ambient temperature. The cooled reaction mixture was diluted with EtOAc and then washed with H2O, brine, dried (MgSO4) and concentrated. The residue was mostly dissolved in warm EtOAc (100 ml), added 100 ml of Et2O, allowed to stand at ambient temperature for 1 hour. The solid was collected and washed with cold Et2O (50 ml) to give 7-chloro-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carbonitrile (4.4 g, 14.07 mmol, 52.3% yield) as a yellow solid.

reactant | 4,7-dichloroquinoline-2-carbonitrile | 26.9 mmol, 6 g | ClC1=CC(=NC2=CC(=CC=C12)Cl)C#N | C10H4Cl2N2
reactant | (2-fluoro-4-methoxyphenyl)boronic acid | 29.6 mmol, 5.03 g | FC1=C(C=CC(=C1)OC)B(O)O | C7H8BFO3
reactant | sodium carbonate | 59.2 mmol, 2M, 29.6 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 48.9 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.672 mmol, 0.777 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-chloro-4-(2-fluoro-4-methoxyphenyl)quinoline-2-carbonitrile | 14.07 mmol, 4.4 g, 52.3% yield | ClC1=CC=C2C(=CC(=NC2=C1)C#N)C1=C(C=C(C=C1)OC)F | C17H10ClFN2O
